US04528288
Preparation of 5-(N,N-diethylamino)-7-methyltriazolo[1,5-c]pyrimidine
To a stirred solution of 2.5 g (15 mmole) of 5-chloro-2-methyltriazolo[1,5-c]pyrimidine in 50 ml of dioxane was added 2.2 g (30 mmole) of N,N-diethylamine. After stirring for three hours at about 20° C., the solid was separated by filtration and washed with dioxane. The filtrate and washings were evaporated to provide a residue which was dissolved in 150 ml of chloroform. The solution was washed thrice with 50 ml portions of water and once with 50 ml of saturated sodium chloride solution, and was then dried over magnesium sulfate. Evaporation of the chloroform provided an oil which solidified when cooled with dry ice. The solid was suspended in hexane, and the mixture was cooled to 0° C. Filtration provided a yellow solid which was purified by high pressure liquid chromatography with chloroform as the eluent. The middle fractions provided a residue which was triturated with diethyl ether and dried. The white solid product was 5-(N,N-diethylamino)-7-methyltriazolo[1,5-c]pyrimidine, m.p. 57°-58° C. Analysis: Calculated for C10H15N5 : %C, 58.5; %H, 7.4; %N, 34.1; Found: %C, 58.4; %H, 7.5; %N, 34.0.

reactant | 5-chloro-2-methyltriazolo[1,5-c]pyrimidine | 15 mmole, 2.5 g | ClC1=CC=2N(C=N1)NN(C2)C | C6H7ClN4
reactant | N,N-diethylamine | 30 mmole, 2.2 g | C(C)NCC | C4H11N
reactant | dry ice | C(=O)=O | CO2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | hexane | CCCCCC | C6H14
product | 5-(N,N-diethylamino)-7-methyltriazolo[1,5-c]pyrimidine | C(C)N(CC)C1=CC=2N(C(=N1)C)N=NC2 | C10H15N5
